US08106215B2
6-Methoxy-pyridine-2-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with 6-methoxy-pyridine-2-carboxylic acid.

reactant | [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)C | C21H27N3OS
reactant | 6-methoxy-pyridine-2-carboxylic acid | COC1=CC=CC(=N1)C(=O)O | C7H7NO3
product | 6-Methoxy-pyridine-2-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C1=NC(=CC=C1)OC)C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C | C28H32N4O3S
